US07968570B2
A mixture of 5-bromo-2,3-dihydro-1H-isoindole-1-one (0.065 g, 0.22 mmol), Pd(PPh3)4 (0.025 g, 0.02 mmol), sodium cyanide (0.023 g, 0.5 mmol), and CuI (0.004 g, 0.02 mmol) in acetonitrile (4 mL) was stirred at 80° C. for 18 h. Workup and silica gel column chromatography using 2:1 hexanes-ethyl acetate (typically 2:1 hexane-EtOAc) afforded 2-benzyl-1-oxo-2,3-dihydro-1H-isoindole-5-carbonitrile (0.047 g, 85%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.32 (s, 2H), 4.81 (s, 2H), 7.33 (m, 5H), 7.68 (s, 1H), 7.76 (d, 1H), 7.98 (d, 1H). GC-MS: m/z 248 (M)+, 171 (M−77)+.

reactant | 5-bromo-2,3-dihydro-1H-isoindole-1-one | 0.22 mmol, 0.065 g | BrC=1C=C2CNC(C2=CC1)=O | C8H6BrNO
reactant | sodium cyanide | 0.5 mmol, 0.023 g | [C-]#N.[Na+]
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
catalyst | Pd(PPh3)4 | 0.02 mmol, 0.025 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.02 mmol, 0.004 g | [Cu]I
product | 2-benzyl-1-oxo-2,3-dihydro-1H-isoindole-5-carbonitrile | 0.047 g, 85% | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C1)C#N)=O | C16H12N2O
